US06022899
1.0 g of N-(2-chloro-5-trifluoromethylbenzyl)-N-methylamine was reacted with 0.75 g of CDI and 1.1 g of guanidine analogously to Example 23. 0.6 g of N-(2-chloro-5-trifluoromethylbenzyl)-N-methylaminocarbonylguanidine hydrochloride is obtained;

reactant | N-(2-chloro-5-trifluoromethylbenzyl)-N-methylamine | 1.0 g | ClC1=C(CNC)C=C(C=C1)C(F)(F)F | C9H9ClF3N
reactant | CDI | 0.75 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | guanidine | 1.1 g | NC(=N)N | CH5N3
product | N-(2-chloro-5-trifluoromethylbenzyl)-N-methylaminocarbonylguanidine hydrochloride | 0.6 g | Cl.ClC1=C(CN(C(=N)N)C(=O)NC)C=C(C=C1)C(F)(F)F | InChI=1S/C11H12ClF3N4O.ClH/c1-18-10(20)19(9(16)17)5-6-4-7(11(13,14)15)2-3-8(6)12;/h2-4H,5H2,1H3,(H3,16,17)(H,18,20);1H
